US07626042B2
(1) Diethyl N-[(chloromethoxy)carbonyl]iminodiacetate
Using chloroformic acid chloromethyl ester and diethyl iminodiacetate as the raw materials, the same operation as the Example 101(1) gave the title compound as a crude product, and the crude product was used for the next reaction without further purification.

reactant | chloroformic acid chloromethyl ester | ClCOC(=O)Cl | C2H2Cl2O2
reactant | diethyl iminodiacetate | N(CC(=O)OCC)CC(=O)OCC | C8H15NO4
product | Diethyl N-[(chloromethoxy)carbonyl]iminodiacetate | ClCOC(=O)N(CC(=O)OCC)CC(=O)OCC | C10H16ClNO6
